US04246268
When in the procedure of Example 39, 3-[4-(8-methyl-1-naphthoyl)-1-piperidyl]-1-(4-fluorophenyl)-1-propanone is substituted for 4-[4-(6-chloro-2-naphthoyl)-1-piperidyl]-1-(4-fluorophenyl)-1-butanone, α-(4-fluorophenyl)-4-[(8-methyl-1-naphthyl)hydroxymethyl]-1-piperidinepropanol is obtained.

reactant | 3-[4-(8-methyl-1-naphthoyl)-1-piperidyl]-1-(4-fluorophenyl)-1-propanone | CC=1C=CC=C2C=CC=C(C12)C(=O)C1CCN(CC1)CCC(=O)C1=CC=C(C=C1)F | C26H26FNO2
reactant | 4-[4-(6-chloro-2-naphthoyl)-1-piperidyl]-1-(4-fluorophenyl)-1-butanone | ClC=1C=C2C=CC(=CC2=CC1)C(=O)C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)F | C26H25ClFNO2
product | α-(4-fluorophenyl)-4-[(8-methyl-1-naphthyl)hydroxymethyl]-1-piperidinepropanol | FC1=CC=C(C=C1)C(CCN1CCC(CC1)C(O)C1=CC=CC2=CC=CC(=C12)C)O | C26H30FNO2
